US06900215B2
A mixture of 1-bromo-3-fluoro-5-nitrobenzene (17.6 g, 80 mmol), potassium acetate (15.7 g, 160 mmol) and bis(neopentyl glycolato)diboron in 1,4-dioxane (200 ml) was degassed with nitrogen for 30 min before adding dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (1.96 g, 2.4 mmol). The reaction was heated at 90° C. for 16 h, cooled to ambient temperature, filtered (washing the filter cake with a small quantity of dichloromethane) and the filtrate concentrated in vacuo. The residue was partitioned between diethyl ether (300 ml) and 2M sodium hydroxide (300 ml) and the organics discarded. The aqueous was washed with more ether and then cooled in an ice-water bath. The pH was adjusted to approximately 6 with 36% hydrochloric acid and allowed to stand overnight. The resulting solid was collected by filtration, washed with ice-cold water and dried under vacuum over phosphorus pentoxide to furnish 2-(3-fluoro-5-nitrophenyl)-5,5-dimethyl-[1,3,2]dioxaborinane as a buff-coloured solid (15 g, 74%): δH (400 MHz, DMSO) 0.97 (6H, s), 3.81 (4H, s), 7.81 (1H, dd, J 8 and 2), 8.17 (1H, ddd, J 8, 2 and 2), 8.67 (1H, s).

reactant | 1-bromo-3-fluoro-5-nitrobenzene | 80 mmol, 17.6 g | BrC1=CC(=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | potassium acetate | 160 mmol, 15.7 g | C(C)(=O)[O-].[K+]
reactant | bis(neopentyl glycolato)diboron | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 2.4 mmol, 1.96 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2-(3-fluoro-5-nitrophenyl)-5,5-dimethyl-[1,3,2]dioxaborinane | 15 g, 74% | FC=1C=C(C=C(C1)[N+](=O)[O-])B1OCC(CO1)(C)C | C11H13BFNO4
